US04559354
After the addition of 0.69 g of palladium-on-carbon catalyst (10%), a solution of 3.0 g of crude 1-[N-benzyl-2-(3-carbamoyl-4-hydroxyphenoxy)-ethylamino]-3-[4-(thiazol-2-yl)-phenoxy]-2-propanol in a mixture of 30 ml of glacial acetic acid and 3 ml of trifluoroacetic acid is hydrogenated at 45° and normal pressure until the absorption of hydrogen has ceased. The suspension is filtered through a filter aid and the filtrate is freed of solvent; ice water is added to the residue, the pH is adjusted to approximately 9 with ammonia and extraction is carried out several times with ethyl acetate. The combined organic phases are dried over sodium sulphate, concentrated by evaporation and the residue is recrystallised from isopropanol, yielding 1-[2-(3-carbamoyl-4-hydroxyphenoxy)-ethylamino]-3-[4-(thiazol-2-yl)-phenoxy]-2-propanol having a melting point of 136°-138°.

reactant | 1-[N-benzyl-2-(3-carbamoyl-4-hydroxyphenoxy)-ethylamino]-3-[4-(thiazol-2-yl)-phenoxy]-2-propanol | 3.0 g | C(C1=CC=CC=C1)N(CC(COC1=CC=C(C=C1)C=1SC=CN1)O)CCOC1=CC(=C(C=C1)O)C(N)=O | C28H29N3O5S
catalyst | palladium-on-carbon | 0.69 g | [Pd] | Pd
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 1-[2-(3-carbamoyl-4-hydroxyphenoxy)-ethylamino]-3-[4-(thiazol-2-yl)-phenoxy]-2-propanol | C(N)(=O)C=1C=C(OCCNCC(COC2=CC=C(C=C2)C=2SC=CN2)O)C=CC1O | C21H23N3O5S
